US09127007B2
(a). ethyl 9-hydroxy-8-methoxy-5,6-dihydropyrrolo[2,1-a]isoquinoline-2-carboxylate
To a solution of 1-methyl-7-hydroxy-6-methoxy-3,4-dihydroisoquinoline (100 mg) in EtOH (5 ml) was added dropwise under a nitrogen atmosphere ethylbromopyruvate (0.065 ml) and the reaction mixture was heated under reflux for 2 hours. The reaction mixture was allowed to cool to ambient temperature, quenched with a saturated aqueous NaHCO3 solution and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with heptane and increasing amounts of ethyl acetate.

reactant | 1-methyl-7-hydroxy-6-methoxy-3,4-dihydroisoquinoline | 100 mg | CC1=NCCC2=CC(=C(C=C12)O)OC | C11H13NO2
reactant | ethylbromopyruvate | 0.065 ml | C(C)C(C(C(=O)[O-])=O)Br
reactant | EtOH | 5 ml | CCO | C2H6O
product | ethyl 9-hydroxy-8-methoxy-5,6-dihydropyrrolo[2,1-a]isoquinoline-2-carboxylate | OC1=C(C=C2CCN3C(C2=C1)=CC(=C3)C(=O)OCC)OC | C16H17NO4
